Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
HOSPITAL MEDICINE EAST ATTENDING ADMISSION NOTE
time patient seen & examined: 7:50pm

CC: abdominal pain, post-EUS

 
Major Surgical or Invasive Procedure:
EUS
 
History of Present Illness:
___ man whose PMH includes BPH, hyperlipidemia, and OSA (uses 
CPAP semi-regularly), who presented with periumbilical/ low 
epigastric abdominal pain in ___, refractory to 
antacid therapy. He had an unremarkable abdominal US in ___, but on ___, CT of the abdomen showed a "hypoenhancing area 
within the tail of the pancreas concerning for neoplasm." On 
___, MRI of the abdomen showed a "lobulated hypoenhancing 
pancreatic tail mass extending into the peripancreatic fat, 
abutting the splenic artery and vein and contacting the spleen, 
highly worrisome for adenocarcinoma. There were also multiple 
hepatic hemangiomas but no liver lesion suspicious for 
metastasis." He  presented today for EUS, and he is now s/p FNA 
of the tail of the pancreas mass and lymph node. 

He reports his abdominal pain worsened after the procedure today 
but after dilaudid he feels much better. Denies associated N/V/D 
or weight loss. Extensive ROS is otherwise negative.

 
Past Medical History:
hyperlipidemia
benign prostatic hypertrophy
obstructive sleep apnea (on intermittent CPAP)
 
Social History:
___
Family History:
father died of metastatic melanoma ___

 
Physical Exam:
VS 98.9 128/84 101 16 100% RA
GEN:   NAD, well-appearing
EYES:  conjunctiva clear anicteric
ENT:   moist mucous membranes
NECK:  supple
CV:    RRR s1s2 with occasional premature beat
PULM:  CTA
GI:    normal BS, ND, soft, nontender
EXT:   feet cool, 2+ DP pulses, no edema
SKIN:  no rashes
NEURO: alert, oriented x 3, answers ? appropriately, follows
commands
PSYCH: appropriate
ACCESS: PIV  
FOLEY: none 

 
Pertinent Results:
___ 02:40PM BLOOD WBC-12.8* RBC-5.02 Hgb-14.7 Hct-42.8 
MCV-85 MCH-29.2 MCHC-34.3 RDW-14.0 Plt ___
___ 02:40PM BLOOD ___ PTT-28.8 ___
___ 02:40PM BLOOD Glucose-131* UreaN-14 Creat-0.7 Na-138 
K-3.8 Cl-105 HCO3-22 AnGap-15
___ 02:40PM BLOOD ALT-17 AST-14 AlkPhos-52 TotBili-0.5
___ 02:40PM BLOOD Lipase-24
___ 02:40PM BLOOD Calcium-8.4 Phos-2.5* Mg-1.8
___ 11:00AM BLOOD CEA-<1.0

PENDING STUDIES: CA ___, chromogranin A, serotonin, pancreatic 
polypeptide

EUS:
EUS examination revealed a 3.7 cm X 3.2 cm ill-defined mass in 
the tail of the pancreas. The mass was hypoechoic and 
heterogenous in echotexture. The borders of the mass were 
irregular and poorly defined.
Successful FNA of the mass.
The mass appeared to abut the splenic vein and artery. There was 
no caliber change. 
A lymph node was noted near the celiac axis. It measured 8 mm X 
7 mm in diameter. The lymph node was hypoechoic and 
heterogeneous in echotexture. The borders were well-defined. No 
central intra-nodal vessels were seen.
Successful FNA was performed.
Overall EUS examination concerning for tail of pancreas 
adenocarcinoma with possible encasement of splenic artery and 
vein and possible celiac lymph node.

PATHOLOGY PENDING AT THE TIME OF DISCHARGE
 
Brief Hospital Course:
Pt with recent diagnosed pancreatic mass. Underwent EUS with 
FNA. He was monitored overnight without incident. Abdominal pain 
was at baseline on the morning following procedure and he was 
tolerating regular diet. FNA results pending at the time of 
discharge. Pt will follow-up in pancreatic ___ 
clinic next week.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO DAILY 
2. Tamsulosin 0.4 mg PO HS 
3. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1. Omeprazole 40 mg PO DAILY 
2. Simvastatin 20 mg PO DAILY 
3. Tamsulosin 0.4 mg PO HS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatic Mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You presented to the hospital for a biopsy of your pancreatic 
mass. You tolerated this procedure without incident. You should 
follow-up as listed below to go over your biopsy results as well 
as discuss a plan of care.

It was a pleasure taking part in your medical care.
 
Followup Instructions:
___